US07932272B2
2-Amino-N-(5-bromo-thiophen-2-ylmethyl)-6-methoxymethyl-nicotinamide
To a solution of C-(5-bromo-thiophen-2-yl)-methylamine (250 mg, 1.3 mmol) in N,N-dimethylformamide (5 mL) were added tiethylamine (0.54 mL, 3.9 mmol), 2-amino-6-methoxymethyl-nicotinic acid (240 mg, 1.3 mmol) described in Preparation Example A-11, and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (690 mg, 1.6 mmol) sequentially on an ice bath, then, the solution was stirred for 2 days at room temperature. The reaction solution was partitioned in water and ethyl acetate. The organic layer was separated, the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=4:1), and the title compound (370 mg, 1.0 mmol, 79%) was obtained as a white solid.

reactant | C-(5-bromo-thiophen-2-yl)-methylamine | 1.3 mmol, 250 mg | BrC1=CC=C(S1)CN | C5H6BrNS
reactant | 2-amino-6-methoxymethyl-nicotinic acid | 1.3 mmol, 240 mg | NC1=C(C(=O)O)C=CC(=N1)COC | C8H10N2O3
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 1.6 mmol, 690 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-Amino-N-(5-bromo-thiophen-2-ylmethyl)-6-methoxymethyl-nicotinamide | 1.0 mmol, 370 mg, 79% | NC1=C(C(=O)NCC=2SC(=CC2)Br)C=CC(=N1)COC | C13H14BrN3O2S
